US04112095
Preparation of 3-methyl-6-(m-tolyl)-1,2,4,-triazolo [4,3-b]pyridazine
As in Example 36, a mixture of 6.0 g. of 3-chloro-6-(m-tolyl)pyridazine and 4.34 g of acetylhydrazine in 100 ml. of n-butanol is refluxed for 48 hr. to give 2.0 g. of cream colored crystals, m.p. 160°-162° C.

reactant | 3-chloro-6-(m-tolyl)pyridazine | ClC=1N=NC(=CC1)C=1C=C(C=CC1)C | C11H9ClN2
reactant | acetylhydrazine | 4.34 g | C(C)(=O)NN | C2H6N2O
solvent | n-butanol | C(CCC)O | C4H10O
product | 3-methyl-6-(m-tolyl)-1,2,4,-triazolo [4,3-b]pyridazine | CC1=NN=C2N1N=C(C=C2)C=2C=C(C=CC2)C | C13H12N4
